US08791161B2
3-[(2-amino-4-chlorophenyl)thio]-N,N-dimethylpropanamide
A mixture of 2-amino-4-chlorobenzenethiol (327 mg, 2.05 mmol), N,N-dimethylacrylamide (203 mg, 2.05 mmol) and HOAc (0.5 ml) in CH2Cl2 (5 ml) was stirred at room temperature for 3 days. The reaction was quenched with NaHCO3 (aq.) and then extracted with CH2Cl2 (2×10 ml). The organic layer was washed with water and brine and concentrated in vacuo. The crude product was purified by chromatography on silica gel (50% ethyl acetate in hexane) to yield the title compound (284 mg, 54%).

reactant | 2-amino-4-chlorobenzenethiol | 2.05 mmol, 327 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | N,N-dimethylacrylamide | 2.05 mmol, 203 mg | CN(C(C=C)=O)C | C5H9NO
reactant | HOAc | 0.5 ml | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-[(2-amino-4-chlorophenyl)thio]-N,N-dimethylpropanamide | 284 mg, 54% | NC1=C(C=CC(=C1)Cl)SCCC(=O)N(C)C | C11H15ClN2OS
